US06828460B2
cis/trans-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetic Acid
To a round bottomed flask equipped with magnetic stirrer was added {4-[2,4-dihydroxyphenyl]cyclohexylidene}acetic acid (50 mg, 0.20 mmol) and ethanol (15 ml). To the stirred solution was added palladium (catalytic amount, 10% on activated carbon) in one portion. The reaction vessel was evacuated and then placed under an atmosphere of hydrogen. This was repeated ten times and then stirred for 17 hr under a hydrogen atmosphere at room temperature. The reaction mixture was filtered through a celite plug, washing with ethanol. The solvent was removed in vacuo to give the title compound (50 mg, 100%) as a pale yellow oil. m/z (ES+) 251 (M+H+); δH(CD3OD) 1.33-1.91 (9H, m), 2.30 (2H, m), 2.81 (1H, m), 6.28 (2H, m), 6.94 (1H, m).

reactant | {4-[2,4-dihydroxyphenyl]cyclohexylidene}acetic acid | 0.20 mmol, 50 mg | OC1=C(C=CC(=C1)O)C1CCC(CC1)=CC(=O)O | C14H16O4
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | trans-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetic Acid | 50 mg, 100% | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)CC(=O)O | C14H18O4
